US09193693B2
t-Butyl piperazine-1-carboxylate (1.52 g, 8.17 mmol, 2.00 equiv), 1-bromo-4-(trifluoromethyl)benzene (1 g, 4.10 mmol, 1.00 equiv), BINAP (124 mg, 0.40 mmol, 0.10 equiv), Pd2(dba)3 (184 mg, 0.20 mmol, 0.05 equiv), NaOt-Bu (1.2 g, 12.50 mmol, 3.00 equiv), and toluene (15 mL) were combined in a 100-mL round-bottom flask, stirred overnight at 100° C. in an oil bath, and concentrated under vacuum. Purification by silica gel column with PE/EA (50:1) yielded 1.06 g (78%) of t-butyl 4-(4-(trifluoromethyl)phenyl)piperazine-1-carboxylate as a yellow solid.

reactant | t-Butyl piperazine-1-carboxylate | 8.17 mmol, 1.52 g, 2.00 equiv | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-bromo-4-(trifluoromethyl)benzene | 4.10 mmol, 1 g, 1.00 equiv | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | BINAP | 0.40 mmol, 124 mg, 0.10 equiv | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 12.50 mmol, 1.2 g, 3.00 equiv | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.20 mmol, 184 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl 4-(4-(trifluoromethyl)phenyl)piperazine-1-carboxylate | 1.06 g, 78% | FC(C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H21F3N2O2
